Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Iodinated Contrast Media
 
Attending: ___
 
Pertinent Results:
MICRO: 
=====
___ Blood cultures no growth at time of discharge x2

IMAGING/OTHER STUDIES: 
====================

RUQ/US ___. Status post cholecystectomy.
2. Mild intrahepatic biliary dilation as well as extrahepatic 
biliary dilation
with a CBD measuring up to 1.2 cm containing mobile stones. 
While an
obstructing stone is not definitely seen in the most distal CBD, 
this is
highly suspected.  ERCP/MRCP is recommended.

ERCP ___ 
Full report available upon request, notable for extraction of 
multiple CBD stones and sphincterotomy. 

SIGNIFICANT LABS: 
==============
___ 06:55AM BLOOD WBC-6.8 RBC-3.99 Hgb-12.2 Hct-37.8 MCV-95 
MCH-30.6 MCHC-32.3 RDW-13.2 RDWSD-45.9 Plt ___
___ 06:10PM BLOOD WBC-7.2 RBC-4.60 Hgb-14.0 Hct-43.4 MCV-94 
MCH-30.4 MCHC-32.3 RDW-13.4 RDWSD-46.8* Plt ___
___ 06:55AM BLOOD Glucose-69* UreaN-11 Creat-0.7 Na-144 
K-4.6 Cl-106 HCO3-25 AnGap-13
___ 06:10PM BLOOD Glucose-99 UreaN-23* Creat-0.9 Na-142 
K-3.8 Cl-103 HCO3-23 AnGap-16
___ 06:55AM BLOOD ALT-43* AST-31 AlkPhos-107* TotBili-0.4
___ 06:10PM BLOOD ALT-112* AST-82* AlkPhos-147* TotBili-0.5
 
Brief Hospital Course:
Ms. ___ is a ___ woman with history of HLD, SSS s/p 
PPM, eosinophilic esophagitis, s/p CCY who presents with 
abdominal pain and subjective fevers and chills.

# Choledocholithiasis: 
Patient with history of cholecystectomy for ?calcified 
gallbladder. She presented on this admission with abdominal 
pain, found to have elevated transaminases and 
choledocholithiasis with associated biliary ductal dilatation. 
She underwent ERCP on ___ with extraction of multiple CBD 
stones and sphincterotomy with mild bleeding that resolved with 
local epinephrine. Following her procedure, she noted full 
resolution of her symptoms and tolerated advancement of diet 
without any issues. She was instructed to hold her aspirin for 
five days following sphincterotomy due to bleeding risks as per 
ERCP team recommendations. 

CHRONIC/STABLE PROBLEMS: 

# Hyperlipidemia: - Statin held in setting of LFT elevation from 
suspected choledocholithiasis. Recommend repeat LFTs as 
outpatient and resumption of statin if normalized. 

# SSS s/p PPM: Placed in ___. ___ model 5826. 

# Grave's disease s/p thyroidectomy: - Continued levothyroxine

# Eosinophilic esophagitis: - Continued omeprazole

# Neuropathy: - Continued gabapentin 

TRANSITIONAL ISSUES:
==================
[] recommend repeat LFTs as outpatient and resumption of statin 
if normalized.
[] patient instructed to hold aspirin 5d following procedure. 
Can resume ___. 

> 30 mins spent coordinating discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 600 mg PO QHS 
2. Omeprazole 20 mg PO BID 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID 
4. Levothyroxine Sodium 88 mcg PO DAILY 
5. Atorvastatin 20 mg PO QPM 
6. Aspirin 81 mg PO DAILY 
7. Vitamin D ___ UNIT PO DAILY 
8. Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
2.  Gabapentin 600 mg PO QHS  
3.  Levothyroxine Sodium 88 mcg PO DAILY  
4.  Omeprazole 20 mg PO BID  
5.  Vitamin D ___ UNIT PO DAILY  
6. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin for at least 5 days from your procedure due 
to risk of bleed.
7. HELD- Atorvastatin 20 mg PO QPM  This medication was held. Do 
not restart Atorvastatin until discussed with your PCP.
8. HELD- Ibuprofen 600 mg PO Q8H:PRN Pain - Mild  This 
medication was held. Do not restart Ibuprofen until at least 
five days after your procedure due to risk of bleeding. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# choledocholithiasis: 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a privilege to care for you at the ___ 
___. You were admitted with abdominal pain secondary 
to bile stones in your biliary tract. You had a procedure called 
ERCP with removal of these stones and your symptoms improved. It 
is now safe to be discharged home. You have some very mild 
bleeding during the procedure so you should NOT take any blood 
thinning medications, such as NSAIDs (e.g. ibuprofen) for the 
next 5 days. 

Please continue to take all medications as prescribed and follow 
up with all appointments as detailed below. 

We wish you the best!

Sincerely,
Your ___ Team 
 
Followup Instructions:
___